US08563565B2
(2) Synthesis of (S)-7-(2-methoxy-3,5-dimethylpyridin-4-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
(S)-7-bromo-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one (100 mg), (2-methoxy-3,5-dimethyl-pyridin-4-yl)boronic acid (65 mg) obtained in Preparation Example 29 (4) and cesium carbonate (293 mg) were added to a mixed solution of DMF (5 mL) and water (1 mL) at room temperature. PdCl2(PPh3)2 (10.5 mg) was added to the mixture in a nitrogen gas stream. The mixture was stirred at 80° C. for one hour and at 100° C. for 4.5 hours. After cooling the reaction mixture to room temperature, water (5 mL) was added, and the mixture was extracted with isopropyl acetate. The organic layer was washed with water and brine and then concentrated under reduced pressure. A crude purified product (64.7 mg) was obtained as the title compound. The instrumental data of this compound were identical to those of the (−)-form of Example 25.

reactant | (S)-7-bromo-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 100 mg | BrC=1C=CC=2C3=C(C(NC2C1)=O)C=NN3[C@@H]3COCC3 | C14H12BrN3O2
reactant | (2-methoxy-3,5-dimethyl-pyridin-4-yl)boronic acid | 65 mg | COC1=NC=C(C(=C1C)B(O)O)C | C8H12BNO3
reactant | cesium carbonate | 293 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 10.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 5 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | (S)-7-(2-methoxy-3,5-dimethylpyridin-4-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | COC1=NC=C(C(=C1C)C=1C=CC=2C3=C(C(NC2C1)=O)C=NN3[C@@H]3COCC3)C | C22H22N4O3
